US08138175B2
C) (rac)-4-Bromo-2-[7-oxo-4-(3-trifluoromethyl-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester
A solution of 1.03 g (2.12 mmol) of (rac)-4-(tert-butyl-dimethyl-silanyloxy)-2-[7-oxo-4-(3-trifluoromethyl-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester in 6 ml of CH2Cl2 was treated at 0° C. with 2.33 ml (2.33 mmol, 1M in CH2Cl2) of boron tribromide and kept 2.5 h at this temperature. The solution was warmed to RT cooled (0° C.) and treated again with 2.33 ml (2.33 mmol, 1M in CH2Cl2) of boron tribromide. After 1 h at this temperature, the reaction was extracted with cold sat. aq. NaHCO3 and EtOAc solution (3×). The organic phases were washed with sat. aq. NaHCO3 solution, dried over Na2SO4 and evaporated to give 1.14 g of the crude compound. Purification by flash silica gel column ((n-heptane:EtOAc 95:5, 1:1 to EtOAc) gave 0.086 g (11%) of the title compound as light yellow oil, MS: 437.1 (MH+, 1Br) and

reactant | (rac)-4-(tert-butyl-dimethyl-silanyloxy)-2-[7-oxo-4-(3-trifluoromethyl-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester | 2.12 mmol, 1.03 g | COC(C(CCO[Si](C)(C)C(C)(C)C)N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F)=O | C23H35F3N2O4Si
reactant | boron tribromide | 2.33 mmol, 1M, 2.33 ml | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 2.33 mmol, 1M, 2.33 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | (rac)-4-Bromo-2-[7-oxo-4-(3-trifluoromethyl-phenyl)-[1,4]diazepan-1-yl]-butyric acid methyl ester | 0.086 g, 11% | COC(C(CCBr)N1CCN(CCC1=O)C1=CC(=CC=C1)C(F)(F)F)=O | C17H20BrF3N2O3
